US08461158B2
To a solution of tert-butyl 3-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)-amino]-1-piperidinecarboxylate (420 mg, 0.72 mmol) in CH2Cl2 (12 mL) at 0° C. was added Et3N (0.2 mL, 1.4 mmol) and methanesulfonyl chloride (0.1 mL, 1.08 mmol). The reaction mixture was stirred at 0° C. for 30 min, and a solution of 40% aqueous dimethylamine (5 mL) was then added. The reaction mixture was stirred at room temperature for 2 days and the solvent was removed under vacuum. The residue was diluted with water and stirred for 30 min to give a precipitate, which was collected by filtration, washed with water, and dried. Chromatography on SiO2 eluting first with CH2Cl2/EtOAc (4:1), and then with CH2Cl2/MeOH (95:5) containing 1% aqueous NH3, gave tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(dimethylamino)propyl]amino}-1-piperidinecarboxylate (465 mg; 100%) as a white solid: mp (CH2Cl2/MeOH) 133-136° C.; 1H NMR (DMSO-d6) (rotamers) δ 7.96 and 7.88 (2d, J=8.3 Hz, 1H), 7.77 and 7.68 (2t, JHF=53.0, 52.9 Hz, 1H), 7.40-7.34 (m, 1H), 6.96-6.93 (m, 1H), 4.56-4.88 and 4.30-4.27 (2 m, 1H), 3.98 and 3.97 (2s, 3H), 3.97-3.49 (m, 13H), 2.93-2.88 and 2.77-2.63 (2m, 2H), 2.35-2.27 (m, 2H), 2.15 and 2.13 (2s, 6H), 1.93-1.71 (m, 4H), 1.48-1.16 (m, 1H), 1.40 (s, 9H); Anal. Calcd. for C31H45F2N9O4C, 57.7; H, 7.0; N, 19.5. Found: C, 57.7; H, 7.1; N, 19.7%.

reactant | tert-butyl 3-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)-amino]-1-piperidinecarboxylate | 0.72 mmol, 420 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CN(CCC1)C(=O)OC(C)(C)C)CCCO)C=CC=C2OC)F | C29H40F2N8O5
reactant | Et3N | 1.4 mmol, 0.2 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.08 mmol, 0.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylamine | 5 mL | CNC | C2H7N
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(dimethylamino)propyl]amino}-1-piperidinecarboxylate | 465 mg, 100% | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CN(CCC1)C(=O)OC(C)(C)C)CCCN(C)C)C=CC=C2OC)F | C31H45F2N9O4
